US08039478B2
Step C: 3-[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]propanal
A mixture of 3-(3,3-diethoxypropyl)-5-(4-methoxyphenyl)-1,2,4-oxadiazole (1.0 g, 3.0 mmol) in 2N HCl (10 mL) and THF (10 mL) was stirred at room temperature overnight. The reaction mixture was extracted with EtOAc (3×). The organic layers were washed with water, dried over Na2SO4, filtered and concentrated to give the desired product. LCMS calculated for C12H13N2O3 (M+H): 233.1. found: 233.1.

reactant | 3-(3,3-diethoxypropyl)-5-(4-methoxyphenyl)-1,2,4-oxadiazole | 3.0 mmol, 1.0 g | C(C)OC(CCC1=NOC(=N1)C1=CC=C(C=C1)OC)OCC | C16H22N2O4
solvent | HCl | 2N, 10 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]propanal | COC1=CC=C(C=C1)C1=NC(=NO1)CCC=O | C12H12N2O3
